US04851422
In 70 ml of 0.43M aqueous solution of sodium hydroxide was dissolved 1.57 g of 3,3-dimethyl-4-oxopentanoic acid. To the solution was added under ice-cooling and stirring 20 ml of a 1.15M aqueous solution of potassium permanganate. The mixture was stirred under ice-cooling for 4 hours, to which was added an aqueous solution of sodium hydogen sulfite. Then the resultant precipitates were filtered off. The filtrate was adjusted to pH 1 with 6N-HCl, followed by extraction with ethyl acetate. The extract solution was washed with water and dried, followed by evaporating off the solvent to leave 1.73 g of 3,3-dimethyl-2-oxoglutaric acid as a colorless oily product. This oily product was dissolved in 15 ml of N,N-dimethylformamide. To the solution were added 1.08 ml of dicyclohexylamine and 1.18 g of 4-nitrobenzyl bromide. The mixture was stirred at room temperature for 20 hours. The reaction solution was diluted with ethyl acetate and the crystals which separated out were filtered off. The filtrate was washed with water and dried (MgSO4), followed by evaporating off the solvent. The residue was chromatographed on silica gel. Elution with hexane-ethyl acetate (2:1) afforded 1.30 g of the subject Compound(67) as colorless crystals. Recrystallization from ethyl acetate yielded colorless prisms, m.p. 134°-135° C.

reactant | 3,3-dimethyl-4-oxopentanoic acid | 1.57 g | CC(CC(=O)O)(C(C)=O)C | C7H12O3
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydogen sulfite | S(=O)(O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
product | 3,3-dimethyl-2-oxoglutaric acid | 1.73 g | CC(C(C(=O)O)=O)(CC(=O)O)C | C7H10O5
